US06150524
4,5α-Epoxy-3-methoxymethoxy-17-methyl-6α-((2-pyridyl)-oxy)-morphinan-7-ene
NaH (0.432 g, 18 mmol) is stirred with absolute DMF (12 ml) at ambient temperature and then 4,5α-epoxy-3-methoxymethoxy-17-methyl-morphinan-7-en-6α-ol (1.9764 g, 6 mmol) in DMF (12 ml) is added. After the development of gas has ceased, a solution of 2-bromopyridine in absolute DMF (8 ml) is added at RT. After 3 hours at RT this reaction mixture is poured onto H2O (100 ml) and extracted 3 times with CH2Cl2 (60 ml). The combined organic phases are dried with Ha2SO4, concentrated by rotary evaporation and the residue is purified by flash chromatography (90 g silica gel, CH2Cl2 /MeOH=9/1).

reactant | NaH | 18 mmol, 0.432 g | [H-].[Na+]
reactant | 4,5α-epoxy-3-methoxymethoxy-17-methyl-morphinan-7-en-6α-ol | 6 mmol, 1.9764 g | O1C2=C(C=CC=3C[C@@H]4[C@@H]5C=C[C@@H]([C@H]1[C@@]5(C23)CCN4C)O)OCOC | C19H23NO4
reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
product | 4,5α-Epoxy-3-methoxymethoxy-17-methyl-6α-((2-pyridyl)-oxy)-morphinan-7-ene | O1C2=C(C=CC=3C[C@@H]4[C@@H]5C=C[C@@H]([C@H]1[C@@]5(C23)CCN4C)OC4=NC=CC=C4)OCOC | C24H26N2O4
